US07087594B2
In 5.0 mL of ethyl acetate was dissolved 0.63 g of 1-{2-[2-(1-benzothiophen-4-yl)ethoxy]ethyl}-3-pyrrolidinol, and to the solution was added 0.80 mL of a 3.25 mol/L dried hydrogen chloride-ethyl acetate solution. The resulting mixture was stirred at room temperature for 1 hour and then at 5° C. for 1 hour, after which the crystals precipitated were collected by filtration. The crystals precipitated were washed with ethyl acetate and then dried to obtain 0.43 g of 1-{2-[2-(1-benzothiophen-4-yl)ethoxy]ethyl}-3-pyrrolidinol hydrochloride as colorless crystals.

reactant | 1-{2-[2-(1-benzothiophen-4-yl)ethoxy]ethyl}-3-pyrrolidinol | 0.63 g | S1C=CC2=C1C=CC=C2CCOCCN2CC(CC2)O | C16H21NO2S
reactant | hydrogen chloride-ethyl acetate | 3.25 mol/L | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 5.0 mL | C(C)(=O)OCC | C4H8O2
product | 1-{2-[2-(1-benzothiophen-4-yl)ethoxy]ethyl}-3-pyrrolidinol hydrochloride | 0.43 g | Cl.S1C=CC2=C1C=CC=C2CCOCCN2CC(CC2)O | InChI=1S/C16H21NO2S.ClH/c18-14-4-7-17(12-14)8-10-19-9-5-13-2-1-3-16-15(13)6-11-20-16;/h1-3,6,11,14,18H,4-5,7-10,12H2;1H
